US07399775B2
S-(6-Chloro-3-pyridyl) O-ethyl dithiocarbonate
In 1N hydrochloric acid (10 ml) was dissolved 5-amino-2-chloropyridine (643 mg, 3.00 mmol). A water (1 ml) solution of sodium nitrite (207 mg, 3.00 mmol) was added dropwise to the resulting solution at −5° C. After the reaction mixture was stirred at 60° C. for 30 minutes, a water (1 ml) solution of potassium O-ethyl dithiocarbonate (481 mg, 3.00 mmol) was added dropwise thereto at the same temperature. The reaction mixture was then stirred at 80° C. for 1 hour, followed by cooling to room temperature. Ethyl acetate was added, and the resulting mixture was washed with a saturated aqueous solution of sodium bicarbonate. The organic layer was dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was subjected to flash chromatography on a silica gel column, and the fraction obtained from the hexane:ethyl acetate=49:1 eluate was concentrated under reduced pressure, whereby the title compound (148 mg, 0.63 mmol, 21%) was obtained as a yellow oil.

reactant | 5-amino-2-chloropyridine | 3.00 mmol, 643 mg | NC=1C=CC(=NC1)Cl | C5H5ClN2
reactant | water | 1 ml | O | H2O
reactant | sodium nitrite | 3.00 mmol, 207 mg | N(=O)[O-].[Na+]
reactant | water | 1 ml | O | H2O
reactant | potassium O-ethyl dithiocarbonate | 3.00 mmol, 481 mg | C([S-])(OCC)=S.[K+]
solvent | hydrochloric acid | 1N, 10 ml | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | S-(6-Chloro-3-pyridyl) O-ethyl dithiocarbonate | 0.63 mmol, 148 mg, 21% | C(SC=1C=NC(=CC1)Cl)(OCC)=S | C8H8ClNOS2
